US07476684B2
(1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethyl acetate
1-[5-(3-chlorophenyl)isoxazol-3-yl]ethanol (106.5 g, 476 mmol) and Novozyme 435® (13 g) are taken up under Ar in dry toluene (1.5 L). After addition of vinyl acetate (66 mL, 716 mmol) the reaction was run at r.t. over night, followed by filtration over celite and washing with DCM. The solvent was evaporated in vacuo and the crude product was subjected to column chromatography on silica using dichloromethane/methanol=20:1, to give the title compound (50 g, 47%). 1H NMR: 7.76 (m, 1H), 7.65 (m, 1H), 7.41 (m, 2H), 6.54 (s, 1H), 6.07 (q, 1H), 2.13 (s, 3H), 1.66 (d, 3H). LC-MS (M++1)=266.

reactant | 1-[5-(3-chlorophenyl)isoxazol-3-yl]ethanol | 476 mmol, 106.5 g | ClC=1C=C(C=CC1)C1=CC(=NO1)C(C)O | C11H10ClNO2
reactant | vinyl acetate | 716 mmol, 66 mL | C(C)(=O)OC=C | C4H6O2
solvent | toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | (1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethyl acetate | 50 g, 47% | C(C)(=O)O[C@H](C)C1=NOC(=C1)C1=CC(=CC=C1)Cl | C13H12ClNO3
